US07683091B2
N-({[1-(4-tert-Butylbenzyl)-1H-indol-5-yl]amino}carbonyl)-L-phenylalanine
A mixture of 1-(4-tert-butylbenzyl)-1H-indol-5-amine (0.233 g, 0.84 mmol) and 2-isocyanato-3-phenyl-propionic acid ethyl ester (0.10 g, 0.8 mmol) in 10 mL of dichloromethane was stirred at room temperature overnight. The reaction mixture was concentrated and dissolved in 2:1:1 THF/MeOH/Water (10 mL). Lithium hydroxide monohydrate (0.30 g, 7.1 mmol) was added and the mixture was stirred at room temperature overnight. Most of the organic solvents were removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid. The solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 minutes: 100% B; Hold 100% B 5 minutes. Flow Rate: 22.5 mL/min) The product was collected based on UV absorption and concentrated to give the title compound as an off-white solid (0.15 g, 40%): MS (ESI) m/z 470; MS (ESI) m/z 468.

reactant | 1-(4-tert-butylbenzyl)-1H-indol-5-amine | 0.84 mmol, 0.233 g | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)N)C=C1 | C19H22N2
reactant | 2-isocyanato-3-phenyl-propionic acid ethyl ester | 0.8 mmol, 0.10 g | C(C)OC(C(CC1=CC=CC=C1)N=C=O)=O | C12H13NO3
reactant | Lithium hydroxide monohydrate | 7.1 mmol, 0.30 g | O.[OH-].[Li+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-({[1-(4-tert-Butylbenzyl)-1H-indol-5-yl]amino}carbonyl)-L-phenylalanine | 0.15 g, 40% | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)NC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C29H31N3O3
